US07919528B2
2-Hydrazino-4-morpholino-6-methylpyrimidine
To a solution of 2,4-dichloro-6-methylpyrimidine (0.41 g, 2.50 mmol) in MeOH (5 mL) was added morpholine (0.5 mL, 5.73 mmol). The solution was stirred for 30 min at room temperature, and then hydrazine monohydrate (1.0 mL, 20.6 mmol) was added. The solution was then heated at 60° C. and stirred for 16 h. The solution was then cooled to room temperature and purified by reverse phase HPLC to afford 0.31 g of the title compound (59%) as a waxy white solid. MH+210.

reactant | 2,4-dichloro-6-methylpyrimidine | 2.50 mmol, 0.41 g | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | morpholine | 5.73 mmol, 0.5 mL | N1CCOCC1 | C4H9NO
reactant | hydrazine monohydrate | 20.6 mmol, 1.0 mL | O.NN
solvent | MeOH | 5 mL | CO | CH4O
product | 2-Hydrazino-4-morpholino-6-methylpyrimidine | 0.31 g, 59% | N(N)C1=NC(=CC(=N1)N1CCOCC1)C | C9H15N5O
